Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ with a hx of COPD on 3L home O2 at night, HLD, pre-DM, and 
severe depression presents as outside transfer for acute hypoxic 
hypercarbic respiratory failure secondary to COPD exacerbation. 

The patient initially presented to ___ with increasing 
dyspnea and intermittent somnolence for 2 days. He has a chronic 
cough that he reports was not worse than usual. In this time, 
per the pt's wife, he was also more sleepy than usual and fell 
asleep on several occasions even while at the dinner table. The 
pt denies fevers, chills, chest pain, leg swelling, or recent 
illness. Pt says that he received flu shot earlier this year.

On the night prior to admission, the pt's wife reports that he 
woke up gasping for air, prompting her to call ___. He was 
brought to the hospital by EMS who found him with O2 sat in ___, 
increased to ___ on nasal cannula. At that time, his initial pH 
was 7.22 and pCO2 80, so the patient was placed on BiPAP and 
given duonebs and solumedrol with good improvement in shortness 
of breath however the pt remained hypercarbic by VBG. The pt was 
transferred to ___ because he required ongoing BiPAP, but no 
ICU beds were available at ___.

In the ED, the patient's initial VS were T 98.3, HR 103, BP 
164/104, HR 20, O2 96% on BiPAP. His exam was notable for being 
generally alert and conversant, but with diminished sounds and 
faint crackles in all lung fields except left upper lobe.

Labs significant for: 
WBC 9.4 (94.8% PMNs), Hbg 13.9, Plts 240 
Na 142, K 4.9, Cl 101, HCO3 33, BUN 13, Cr 0.7, glucose 146
___ 13.0, PTT 29.9, INR 1.2
proBNP 30
VBG: pH 7.28, pCO2 77

The patient was given: 500mg IV azithromycin  

Imaging notable for a CXR which demonstrated hyperinflated lungs 
but no clear focal consolidation.   

On arrival to the MICU, the pt provided the above history.
 
REVIEW OF SYSTEMS:  
Negative for fever, chills, sore throat, increased cough, CP, 
palpitations, abdominal pain, nausea, vomiting, diarrhea, 
constipation, leg swelling.
Positive for shortness of breath, lethargy 
 
Past Medical History:
- COPD
- Likely undiagnosed OSA (per sleep history provided by family)
- Pre-diabetes
- HLD
- Glaucoma
- Severe depression w/ psychotic features
 
Social History:
___
Family History:
No family history of early cardiovascular disease or cancers. 
 
Physical Exam:
ADMISSION EXAM
===============
VITALS:  T 98.1, HR 93, BP 143/92, RR 23, O2 93% on BiPAP
GENERAL: Alert, oriented, no acute distress, tolerating BiPAP 
mask  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Markedly decreased lung sounds throughout, no crackles or 
wheezes appreciated
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: AOx3
PSYCH: Mood described as "good" affect congruent

DISCHARGE EXAM
================
VITALS: 97.6 123 / 79 76 18 95 2L 
AMBULTORY SATS: 84% RA, 86-88% 1L NC, 88-89% 2L NC, 90% 3L NC
GENERAL: Awake, alert, and interactive. No acute distress.
HEENT: Sclera anicteric, MMM, no visible lesions of oral mucosa.
NECK: supple, JVP not elevated, no LAD  
LUNGS: No use of accessory muscles. Markedly decreased lung
sounds throughout, worst at bilateral bases. Faint inspiratory
crackles in mid-lung fields bilaterally. No wheezes appreciated.
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs,
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
NEURO: AOx3. ___ strength of bilateral proximal and distal UE 
and
___. Sensation in upper and lower extremities grossly intact. 
Face
appears symmetrical.
 
Pertinent Results:
ADMISSION LABS
==============
___ 02:16PM   WBC-9.4 RBC-4.73 HGB-13.9 HCT-45.6 MCV-96 
MCH-29.4 MCHC-30.5* RDW-13.8 RDWSD-49.0*
___ 02:16PM   NEUTS-94.8* LYMPHS-4.2* MONOS-0.5* EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-8.90* AbsLymp-0.39* AbsMono-0.05* 
AbsEos-0.00* AbsBaso-0.02
___ 02:16PM   PLT COUNT-240
___ 02:16PM   ___ PTT-29.9 ___
___ 02:16PM   GLUCOSE-146* UREA N-13 CREAT-0.7 SODIUM-142 
POTASSIUM-4.9 CHLORIDE-101 TOTAL CO2-33* ANION GAP-8*
___ 02:24PM   O2 SAT-90
___ 02:24PM   LACTATE-0.8
___ 02:24PM   ___ PO2-66* PCO2-77* PH-7.28* TOTAL 
CO2-38* BASE XS-5

PERTINENT LABS
===============
___ 03:45AM BLOOD %HbA1c-5.8 eAG-120
___ 03:45AM BLOOD Triglyc-52 HDL-44 CHOL/HD-2.2 LDLcalc-42 
LDLmeas-42

DISCHARGE LABS
===============
___ 07:30AM BLOOD WBC-11.4* RBC-4.57* Hgb-13.2* Hct-42.9 
MCV-94 MCH-28.9 MCHC-30.8* RDW-14.2 RDWSD-48.6* Plt ___
___ 07:30AM BLOOD Glucose-98 UreaN-17 Creat-0.7 Na-144 
K-4.2 Cl-102 HCO3-35* AnGap-7*
___ 07:30AM BLOOD Calcium-9.2 Phos-3.8 Mg-2.1
___ 08:09AM BLOOD pO2-68* pCO2-70* pH-7.31* calTCO2-37* 
Base XS-5 Comment-GREEN TOP

STUDIES/IMAGING
================
___ CXR
No prior chest radiographs are available.  Lungs are 
hyperinflated, consistent with the provided diagnosis of C OPD, 
but clear of any focal abnormality.  Cardiomediastinal and hilar 
silhouettes and pleural surfaces are normal 

___ CT-A
IMPRESSION: 
No evidence of pulmonary embolism or aortic abnormality.
Diffuse bronchial wall thickening and mild bronchiectasis is 
nonspecific and
could be inflammatory or infectious in etiology.
 
Brief Hospital Course:
Mr. ___ is a ___ with a hx of COPD on 3L home O2 at night, 
HLD, pre-DM, and severe depression presents as outside transfer 
for acute hypoxic hypercarbic respiratory failure likely 
secondary to COPD exacerbation. 

ACTIVE ISSUES:
==============
# Acute hypercarbic hypoxic respiratory failure
# COPD exacerbation
The patient presented in hypercarbic respiratory failure, most 
likely due to COPD exacerbation. Patient initially presented to 
___ with O2 sats in ___ on RA. Was started on BiPAP and 
transferred to ___ for ICU support. The trigger for the 
exacerbation was unknown. There was nothing in the history to 
suggest infection. He was afebrile and his CXR did not show a 
consolidation. The patient had a CTA which was negative for PE. 
CHF less likely cause of his respiratory failure given no hx and 
nml proBNP. He was started on a 5 day course of steroids 
(___), in addition to being given azithromycin 500mg x1, 
and albuterol and ipratropium inhalers. He was weaned off of 
BiPAP and able to transition to nasal cannula prior to transfer 
to the floor. His steroids were weaned from 60mg to 40mg and he 
was transitioned from azithromycin to levofloxacin. QTc 367. His 
ambulatory O2 saturations were 84% on RA, 86-88% on 1L NC, 
88-89% on 2L NC, and 90% on 3L NC. Patient received 3 days 
azithromycin, transitioned to levofloxacin 750 mg daily to 
finish a course on ___. He will complete a 5 day course 
of steroids 40 mg on ___. His home Advair dose was 
increased to 250/50 BID. Patient uses supplemental O2 at night 
and needs sleep study outpatient to assess for sleep apnea. 

CHRONIC/STABLE ISSUES:
======================
# Severe depression
The pt has a history of severe depression w/ psychotic features 
(auditory hallucinations). Is followed by psychiatrist and 
therapist, appears to be reasonably well controlled at this 
time. Currently denies depressive mood or symptoms. QTc 367. 
While in house, he was continued on home Seroquel 600mg QHS, 
home Mirtazapine 30mg QHS, home welbutrin 200 mg QD. He was 
discharged on his home medications. His zolpidem was held 
pending PCP ___.

# Chronic pain
The patient has chronic pain in upper extremity and was 
continued on and discharged on his home gabapentin 300mg TID. 

# Pre-diabetes
Per pt, has pre-diabetes; A1c 5.8% on admission. Only on 
metformin at home. Does not check BG and is not on insulin. He 
was discharged on his home metformin. 

# HLD: Continued on home atorvastatin 40mg QD

# Glaucoma: continued on home Dorzolamide and Latanoprost eye 
drops QHS

TRANSITIONAL ISSUES
====================
VITALS: 97.6 123/79 76 18 95 2L 
AMBULTORY SATS: 84% RA, 86-88% 1L NC, 88-89% 2L NC, 90% 3L NC
VBG at baseline: pH 7.31 pCO2 70 HCO3- 35 

[] Recommend sleep study as an outpatient
[] Recommend PFTs outpatient 

TRANSITIONAL ISSUES:
New Medications:
- Levofloxacin 750 mg daily until tomorrow ___
- Advair 200/50 BID 
- Prednisone 40 mg last day ___ 
- Combivent Q6H 

[ ] Continue prednisone 40 mg until ___
[ ] Continue levofloxacin 750 mg until ___
[ ] Consider outpatient PFTs for evaluation of COPD and lung 
function
[ ] Consider outpatient sleep study for evaluation of OSA
[ ] Consider referral to ___ clinic 
[ ] Consider adding Spiriva if symptoms worsen off steroids 
[ ] Discharged on home O2 2L during the day and 3L at night 
[ ] Patient should purchase home oximeter 
# Full code 
# ___ (wife): ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
2. Zolpidem Tartrate 10 mg PO QHS:PRN sleep 
3. QUEtiapine Fumarate 600 mg PO QHS 
4. Mirtazapine 30 mg PO QHS 
5. Gabapentin 300 mg PO TID 
6. Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB, wheeze 
7. Atorvastatin 40 mg PO QPM 
8. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES QHS 
9. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES QHS 
10. MetFORMIN (Glucophage) 500 mg PO DAILY 
11. BuPROPion (Sustained Release) 200 mg PO DAILY 
12. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 

 
Discharge Medications:
1.  Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H 
RX *ipratropium-albuterol [Combivent Respimat] 20 mcg-100 
mcg/actuation 1 INH IH every six (6) hours Disp #*1 Inhaler 
Refills:*0 
2.  Levofloxacin 750 mg PO Q24H 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*1 
Tablet Refills:*0 
3.  PredniSONE 40 mg PO DAILY Duration: 4 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*4 Tablet 
Refills:*0 
4.  Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB, wheeze  
5.  Atorvastatin 40 mg PO QPM  
6.  Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES QHS  
7.  BuPROPion (Sustained Release) 200 mg PO DAILY  
8.  Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES QHS  
9.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
RX *fluticasone-salmeterol [Advair Diskus] 250 mcg-50 mcg/dose 1 
INH IH twice a day Disp #*60 Disk Refills:*0 
10.  Gabapentin 300 mg PO TID  
11.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
12.  MetFORMIN (Glucophage) 500 mg PO DAILY  
13.  Mirtazapine 30 mg PO QHS  
14.  QUEtiapine Fumarate 600 mg PO QHS  
15. HELD- Zolpidem Tartrate 10 mg PO QHS:PRN sleep  This 
medication was held. Do not restart Zolpidem Tartrate until you 
talk with your primary care physician. 
16.Home Oxygen
ICD-9: 496
2L via NC with ambulation
Concentrator and portable
Length of need: 999 days
At rest RA: 88, Amb on RA: 86, Amb on O2: 88

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Acute hypoxemic, hypercapneic respiratory failure
COPD exacerbation

SECONDARY DIAGNOSES:
Depression
Chronic Pain
Pre-Diabetes
Hyperlipidemia
Glaucoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Thank you for choosing ___ for 
your site of care!

Why was I admitted to the hospital?
-You were admitted because you were short of breath.

What was done for me while I was in the hospital?
-You initially required extra oxygen in the intensive care unit. 
Your oxygen was decreased as your breathing improved.
-You were started on an antibiotic and a steroid to help with 
your breathing. 
-Your oxygen levels were checked while you were walking. You 
were found to need oxygen while walking and will be discharged 
with a mobile oxygen tank.

What should I do when I leave the hospital?
-You should take all of your medications as prescribed. 
-You should follow up with your doctors as ___ below. 
-Use your oxygen at home when you feel short of breath or when 
your O2 saturation is less than 88%.
-If you are felling lightheaded or short of breath, check your 
oxygen. If it is less than 85%, call your primary care doctor. 

We wish you the best!

Your ___ treatment team
 
Followup Instructions:
___